US03991197
0.18 G. of 4'-[trans-5,5-dimethyl-4-(4-pyridyl)-2-pyrrolidinyl]-acetanilide are treated with a solution of 0.18 g. of potassium hydroxide in 1.8 ml. of ethanol and boiled under reflux for 48 hours. The resulting reaction mixture is then evaporated under reduced pressure and the residue is treated with water and extracted three times with methylene chloride. The organic phase is dried over sodium sulfate and evaporated under reduced pressure. The residue which results is treated with ethereal HCl and crystallized with ethanol/ether to yield 4-[trans-5-(p-aminophenyl)-2,2-dimethyl-3-pyrrolidinyl]-pyridine trihydrochloride of melting point 240°-242° C.

reactant | 4'-[trans-5,5-dimethyl-4-(4-pyridyl)-2-pyrrolidinyl]-acetanilide | CC1([C@H](C[C@@H](N1)C1=CC=C(NC(C)=O)C=C1)C1=CC=NC=C1)C | C19H23N3O
reactant | potassium hydroxide | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4-[trans-5-(p-aminophenyl)-2,2-dimethyl-3-pyrrolidinyl]-pyridine trihydrochloride | Cl.Cl.Cl.NC1=CC=C(C=C1)[C@H]1C[C@@H](C(N1)(C)C)C1=CC=NC=C1 | InChI=1S/C17H21N3.3ClH/c1-17(2)15(12-7-9-19-10-8-12)11-16(20-17)13-3-5-14(18)6-4-13;;;/h3-10,15-16,20H,11,18H2,1-2H3;3*1H/t15-,16-;;;/m1.../s1
